US04600788
(c) Preparation of methyl 7-methanesulfonamido-3-methanesulfonyloxy-4'-flavonecarboxylate
2.5 g of methyl 7-amino-3-hydroxy-4'-flavonecarboxylate are put in suspension in 25 cc of anhydrous benzene. The mixture is cooled to 0° C., and 10 cc of methanesulfonic acid chloride are added drop by drop. The mixture is stirred at ambient temperature until the reaction is complete. The reaction is checked by thin-layer chromatography (benzene (90)-dioxane (25)-acetic acid (4) elution solvent). The mixture is poured into 300 cc of ice water. The precipitate is filtered, washed with water and dried. The resulting product is purified by open silica column chromatography. MP=250° C. NMR in DMSO(D6): δ=3.3 ppm, 3H, singlet, CH3 methanesulfonamido; δ=3.6 ppm, 3H, singlet, CH3L methanesulfonyloxy; δ=3.9 ppm, 3H singlet, CH3 methyl ester; δ=7.1-8.4 ppm, 7H, complex multiplet, aromatic protons; δ=10.7 ppm, 1H, dome, NH; (interchangeable with D2O).

reactant | methyl 7-amino-3-hydroxy-4'-flavonecarboxylate | 2.5 g | NC1=CC=C2C(C(=C(OC2=C1)C1=CC=C(C=C1)C(=O)OC)O)=O | C17H13NO5
reactant | methanesulfonic acid chloride | 10 cc | CS(=O)(=O)Cl | CH3ClO2S
solvent | benzene | 25 cc | C1=CC=CC=C1 | C6H6
product | methyl 7-methanesulfonamido-3-methanesulfonyloxy-4'-flavonecarboxylate | CS(=O)(=O)NC1=CC=C2C(C(=C(OC2=C1)C1=CC=C(C=C1)C(=O)OC)OS(=O)(=O)C)=O | C19H17NO9S2
